US07544697B2
3-[4-Amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2,2-dimethylpropanenitrile (436 mg, 1.35 mmol), ethanol (5 mL), sodium hydroxide (0.056 mL of 6 N), and 30% w/w hydrogen peroxide (0.54 mL, 4.7 mmol) were combined and heated at 50° C. for 18.5 hours. Water was added, and the ethanol was removed under reduced pressure. The mixture was extracted with chloroform, and the combined extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by IFC (silica cartridge) and recrystallized from 75% ethyl acetate in hexane. The crystals were washed with 50% ethyl acetate in hexane, dried on the vacuum filter funnel overnight, and further dried under vacuum at 9 Pa and 98° C. to provide 3-[4-amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2,2-dimethylpropanamide as a white solid, mp 225-226° C.

reactant | 3-[4-Amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2,2-dimethylpropanenitrile | 1.35 mmol, 436 mg | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C#N)(C)C)CCOC | C18H21N5O
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium hydroxide | 6 N, 0.056 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 4.7 mmol, 0.54 mL | OO | H2O2
solvent | Water | O | H2O
product | 3-[4-amino-2-(2-methoxyethyl)-2H-pyrazolo[3,4-c]quinolin-1-yl]-2,2-dimethylpropanamide | NC1=NC=2C=CC=CC2C=2C1=NN(C2CC(C(=O)N)(C)C)CCOC | C18H23N5O2
